.title kicad schematic

* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ port
* u7 net-_u2-pad2_ net-_u14-pad4_ net-_u11-pad1_ d_nor
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u9 net-_u3-pad2_ net-_u14-pad4_ d_inverter
* u2 net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u3 net-_u1-pad2_ net-_u3-pad2_ d_inverter
* u6 net-_u1-pad4_ net-_u20-pad2_ d_inverter
* u15 net-_u1-pad16_ net-_u13-pad2_ unconnected-_u15-pad3_ net-_u10-pad2_ net-_u15-pad5_ unconnected-_u15-pad6_ d_tff
* u21 net-_u21-pad1_ net-_u21-pad2_ net-_u21-pad3_ d_or
* u18 net-_u15-pad5_ net-_u18-pad2_ d_inverter
* u24 net-_u21-pad3_ net-_u10-pad2_ net-_u24-pad3_ d_nor
* u25 net-_u24-pad3_ net-_u25-pad2_ d_inverter
* u27 net-_u1-pad16_ net-_u25-pad2_ unconnected-_u27-pad3_ net-_u10-pad2_ net-_u27-pad5_ unconnected-_u27-pad6_ d_tff
* u33 net-_u27-pad5_ net-_u33-pad2_ d_inverter
* u23 net-_u22-pad3_ net-_u23-pad2_ d_inverter
* u22 net-_u20-pad3_ net-_u14-pad4_ net-_u22-pad3_ d_nor
* u16 net-_u14-pad5_ net-_u16-pad2_ d_inverter
* u14 net-_u1-pad16_ net-_u11-pad2_ unconnected-_u14-pad3_ net-_u14-pad4_ net-_u14-pad5_ unconnected-_u14-pad6_ d_tff
* u20 net-_u20-pad1_ net-_u20-pad2_ net-_u20-pad3_ d_or
* u26 net-_u1-pad16_ net-_u23-pad2_ unconnected-_u26-pad3_ net-_u14-pad4_ net-_u26-pad5_ unconnected-_u26-pad6_ d_tff
* u8 net-_u1-pad12_ net-_u21-pad2_ d_inverter
* u13 net-_u10-pad3_ net-_u13-pad2_ d_inverter
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_nor
* u4 net-_u1-pad15_ net-_u10-pad1_ d_inverter
* u5 net-_u1-pad14_ net-_u12-pad1_ d_inverter
* u12 net-_u12-pad1_ net-_u10-pad2_ d_inverter
* u30 net-_u26-pad5_ net-_u30-pad2_ d_inverter
* u28 net-_u26-pad5_ net-_u28-pad2_ d_inverter
* u29 net-_u28-pad2_ net-_u1-pad5_ d_inverter
* u17 net-_u16-pad2_ net-_u1-pad3_ d_inverter
* u44 net-_u20-pad2_ net-_u42-pad3_ net-_u44-pad3_ d_or
* u50 net-_u1-pad16_ net-_u47-pad2_ unconnected-_u50-pad3_ net-_u14-pad4_ net-_u20-pad1_ unconnected-_u50-pad6_ d_tff
* u46 net-_u44-pad3_ net-_u14-pad4_ net-_u46-pad3_ d_nor
* u53 net-_u52-pad2_ net-_u1-pad7_ d_inverter
* u52 net-_u20-pad1_ net-_u52-pad2_ d_inverter
* u37 net-_u36-pad2_ net-_u1-pad6_ d_inverter
* u36 net-_u34-pad5_ net-_u36-pad2_ d_inverter
* u47 net-_u46-pad3_ net-_u47-pad2_ d_inverter
* u43 net-_u21-pad1_ net-_u41-pad3_ net-_u43-pad3_ d_nor
* u48 net-_u45-pad3_ net-_u10-pad2_ net-_u48-pad3_ d_nor
* u51 net-_u1-pad16_ net-_u49-pad2_ unconnected-_u51-pad3_ net-_u10-pad2_ net-_u21-pad1_ unconnected-_u51-pad6_ d_tff
* u49 net-_u48-pad3_ net-_u49-pad2_ d_inverter
* u54 net-_u21-pad1_ net-_u54-pad2_ d_inverter
* u55 net-_u54-pad2_ net-_u1-pad9_ d_inverter
* u45 net-_u21-pad2_ net-_u43-pad3_ net-_u45-pad3_ d_or
* u42 net-_u20-pad1_ net-_u40-pad3_ net-_u42-pad3_ d_nor
* u34 net-_u1-pad16_ net-_u30-pad2_ unconnected-_u34-pad3_ net-_u14-pad4_ net-_u34-pad5_ unconnected-_u34-pad6_ d_tff
* u40 net-_u26-pad5_ net-_u34-pad5_ net-_u40-pad3_ d_and
* u35 net-_u1-pad16_ net-_u33-pad2_ unconnected-_u35-pad3_ net-_u10-pad2_ net-_u35-pad5_ unconnected-_u35-pad6_ d_tff
* u41 net-_u27-pad5_ net-_u35-pad5_ net-_u41-pad3_ d_and
* u39 net-_u38-pad2_ net-_u1-pad10_ d_inverter
* u38 net-_u35-pad5_ net-_u38-pad2_ d_inverter
* u31 net-_u27-pad5_ net-_u31-pad2_ d_inverter
* u32 net-_u31-pad2_ net-_u1-pad11_ d_inverter
* u19 net-_u18-pad2_ net-_u1-pad13_ d_inverter
a1 [net-_u2-pad2_ net-_u14-pad4_ ] net-_u11-pad1_ u7
a2 net-_u11-pad1_ net-_u11-pad2_ u11
a3 net-_u3-pad2_ net-_u14-pad4_ u9
a4 net-_u1-pad1_ net-_u2-pad2_ u2
a5 net-_u1-pad2_ net-_u3-pad2_ u3
a6 net-_u1-pad4_ net-_u20-pad2_ u6
a7 net-_u1-pad16_ net-_u13-pad2_ unconnected-_u15-pad3_ net-_u10-pad2_ net-_u15-pad5_ unconnected-_u15-pad6_ u15
a8 [net-_u21-pad1_ net-_u21-pad2_ ] net-_u21-pad3_ u21
a9 net-_u15-pad5_ net-_u18-pad2_ u18
a10 [net-_u21-pad3_ net-_u10-pad2_ ] net-_u24-pad3_ u24
a11 net-_u24-pad3_ net-_u25-pad2_ u25
a12 net-_u1-pad16_ net-_u25-pad2_ unconnected-_u27-pad3_ net-_u10-pad2_ net-_u27-pad5_ unconnected-_u27-pad6_ u27
a13 net-_u27-pad5_ net-_u33-pad2_ u33
a14 net-_u22-pad3_ net-_u23-pad2_ u23
a15 [net-_u20-pad3_ net-_u14-pad4_ ] net-_u22-pad3_ u22
a16 net-_u14-pad5_ net-_u16-pad2_ u16
a17 net-_u1-pad16_ net-_u11-pad2_ unconnected-_u14-pad3_ net-_u14-pad4_ net-_u14-pad5_ unconnected-_u14-pad6_ u14
a18 [net-_u20-pad1_ net-_u20-pad2_ ] net-_u20-pad3_ u20
a19 net-_u1-pad16_ net-_u23-pad2_ unconnected-_u26-pad3_ net-_u14-pad4_ net-_u26-pad5_ unconnected-_u26-pad6_ u26
a20 net-_u1-pad12_ net-_u21-pad2_ u8
a21 net-_u10-pad3_ net-_u13-pad2_ u13
a22 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a23 net-_u1-pad15_ net-_u10-pad1_ u4
a24 net-_u1-pad14_ net-_u12-pad1_ u5
a25 net-_u12-pad1_ net-_u10-pad2_ u12
a26 net-_u26-pad5_ net-_u30-pad2_ u30
a27 net-_u26-pad5_ net-_u28-pad2_ u28
a28 net-_u28-pad2_ net-_u1-pad5_ u29
a29 net-_u16-pad2_ net-_u1-pad3_ u17
a30 [net-_u20-pad2_ net-_u42-pad3_ ] net-_u44-pad3_ u44
a31 net-_u1-pad16_ net-_u47-pad2_ unconnected-_u50-pad3_ net-_u14-pad4_ net-_u20-pad1_ unconnected-_u50-pad6_ u50
a32 [net-_u44-pad3_ net-_u14-pad4_ ] net-_u46-pad3_ u46
a33 net-_u52-pad2_ net-_u1-pad7_ u53
a34 net-_u20-pad1_ net-_u52-pad2_ u52
a35 net-_u36-pad2_ net-_u1-pad6_ u37
a36 net-_u34-pad5_ net-_u36-pad2_ u36
a37 net-_u46-pad3_ net-_u47-pad2_ u47
a38 [net-_u21-pad1_ net-_u41-pad3_ ] net-_u43-pad3_ u43
a39 [net-_u45-pad3_ net-_u10-pad2_ ] net-_u48-pad3_ u48
a40 net-_u1-pad16_ net-_u49-pad2_ unconnected-_u51-pad3_ net-_u10-pad2_ net-_u21-pad1_ unconnected-_u51-pad6_ u51
a41 net-_u48-pad3_ net-_u49-pad2_ u49
a42 net-_u21-pad1_ net-_u54-pad2_ u54
a43 net-_u54-pad2_ net-_u1-pad9_ u55
a44 [net-_u21-pad2_ net-_u43-pad3_ ] net-_u45-pad3_ u45
a45 [net-_u20-pad1_ net-_u40-pad3_ ] net-_u42-pad3_ u42
a46 net-_u1-pad16_ net-_u30-pad2_ unconnected-_u34-pad3_ net-_u14-pad4_ net-_u34-pad5_ unconnected-_u34-pad6_ u34
a47 [net-_u26-pad5_ net-_u34-pad5_ ] net-_u40-pad3_ u40
a48 net-_u1-pad16_ net-_u33-pad2_ unconnected-_u35-pad3_ net-_u10-pad2_ net-_u35-pad5_ unconnected-_u35-pad6_ u35
a49 [net-_u27-pad5_ net-_u35-pad5_ ] net-_u41-pad3_ u41
a50 net-_u38-pad2_ net-_u1-pad10_ u39
a51 net-_u35-pad5_ net-_u38-pad2_ u38
a52 net-_u27-pad5_ net-_u31-pad2_ u31
a53 net-_u31-pad2_ net-_u1-pad11_ u32
a54 net-_u18-pad2_ net-_u1-pad13_ u19
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u7 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u15 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u21 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u27 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u22 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u14 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u26 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u10 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u44 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u50 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u46 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u53 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u52 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u37 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u36 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u47 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u43 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u48 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u51 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u54 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u55 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u45 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u42 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u34 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u35 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u39 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u38 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
